US05166341
Preparation of N-(1-benzoyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide
To a solution of N-(4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide (1.0 g) in dichloromethane (20 ml), benzoic anhydride (1.5 g) is added, and the mixture is stirred at 25° C. for 16 hours. The reaction mixture is washed with saturated sodium bicarbonate, and dried over sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is chromatographed on silica gel with elution of acetone. Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (1.3 g) as an oil. The free base thus obtained is converted to the oxalate 3/4 hydrate of the title compound in a usual manner, m.p. 100°-103° C. (recrystallized from ethanol-diethyl ether).

reactant | N-(4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide | 1.0 g | CN1CCNCC(C1)NC(=O)C1=NN(C2=CC=CC=C12)CC | C16H23N5O
reactant | benzoic anhydride | 1.5 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(1-benzoyl-4-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide | 1.3 g | C(C1=CC=CC=C1)(=O)N1CCN(CC(C1)NC(=O)C1=NN(C2=CC=CC=C12)CC)C | C23H27N5O2
